US06515003B1
A mixture of 2,6-dimethoxy-phenylboronic acid (1.0 g, 5.48 mmol), 6-bromo-1,1,4,4 tetramethy 1,2,3,4-tetrahydronaphthalene (0.73 g, 2.74 mmol) and potassium carbonate (1.50 g, 10.96 mmol) in 1,2-dimethoxyethane (20 mL) and water (1.0 mL) was degassed with argon for 15 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.60 g, 0.54 mmol) was added and the mixture heated at reflux under argon for 5 hours. The solution was cooled to room temperature, diluted with ethyl acetate and washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel (eluent: ethyl acetate/hexane, 1:9) to give 0.92 g of 6-(2,6-Dimethoxyphenyl)-1,1,4,4-tetramethy-1,2,3,4-tetrahydronaphthlene.

reactant | 2,6-dimethoxy-phenylboronic acid | 5.48 mmol, 1.0 g | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
reactant | 6-bromo-1,1,4,4 tetramethy 1,2,3,4-tetrahydronaphthalene | 2.74 mmol, 0.73 g | BrC=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C14H19Br
reactant | potassium carbonate | 10.96 mmol, 1.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
solvent | water | 1.0 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.54 mmol, 0.60 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2,6-Dimethoxyphenyl)-1,1,4,4-tetramethy-1,2,3,4-tetrahydronaphthlene | 0.92 g | COC1=C(C(=CC=C1)OC)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C22H28O2
